US07842696B2
DIPEA (95.64 mg, 0.11 mL, 0.74 mmol) was added to a stirred solution of 1-(3-Phenyl-propyl)-piperidine-4-carboxylic acid (55.22 mg, 0.22 mmol) in DMF (1 mL). HOBT (30.19 mg, 0.22 mmol) and EDCI (42.74 mg, 0.22 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt (80 mg, 0.18 mmol) was added and the resulting mixture was stirred at room temperature for 16 hrs. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 58 mg (57.16% yield) of 1-(3-Phenyl-propyl)-piperidine-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 95.21%. 1H NMR (CDCl3): δ 7.8-7.5 (d, 3H), 7.38-7.3 (s, 1H), 7.22-7.08 (s, 3H), 6.62-6.5 (s, 1H), 4.2-3.8 (m, 4H), 3.7-3.4 (m, 4H), 3.4-3.2 (m, 3H), 3.0 (s, 2H), 2.7-2.6 (s, 2H), 2.5-2.1 (m, 4H), 2.0-1.8 (m, 6H).

reactant | DIPEA | 0.74 mmol, 0.11 mL, 95.64 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3-Phenyl-propyl)-piperidine-4-carboxylic acid | 0.22 mmol, 55.22 mg | C1(=CC=CC=C1)CCCN1CCC(CC1)C(=O)O | C15H21NO2
reactant | HOBT | 0.22 mmol, 30.19 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.22 mmol, 42.74 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt | 0.18 mmol, 80 mg | FC(C(=O)O)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(3-Phenyl-propyl)-piperidine-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 58 mg, 57.16% yield | O=C(CNC(=O)C1CCN(CC1)CCCC1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C29H35F3N4O3
